simulator lang=spice
* baseline transfer eps_s=0.0
.include "strain_demo_mos.subckt"
Vdd d 0 dc 1.0
Vgs g 0 dc 0
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xdev d g s b strain_demo_mos kp=2e-4 vth=0.35
.dc Vgs 0.0 1.0 0.05
.print dc v(g) i(Vdd)
.end
