* strained transient strain profile (pwl)
.include strain_wrap.inc
Veps eps_s 0 PWL(0 0 1.66667 0.005 3.33333 0)
Valp alpha 0 dc 0.0
Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xwrap d g s b eps_s alpha strain_aware_device nu=0.47 beta=0.8 gamma=0.0 vth0=0.4 mu0=0.04 nu=0.47 beta=0.8 gamma=0.0 beta_r=2.0 gamma_r=0.0 tau_m=0.05 tau_load=0.02 tau_unload=0.1
.tran 0.01 5.0
.print tran time v(eps_s) v(alpha) i(Vdd)
.end
